US07786115B2
4-Methyl-3-[7-(2-morpholin-4-ylethoxy)-1-oxoisoquinolin-2(1H)-yl]benzoic acid (708 mg) was dissolved in methylene chloride (5 ml) and DMF (3 drops) and cooled to 0° C. under an argon atmosphere. Oxalyl chloride (0.33 ml) was added and the reaction mixture stirred at room temperature for 2 hours. Pyridine (1.45 ml) and 3-aminoisoxazole (0.64 ml) were added and the reaction mixture stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, washed with 1N NaOH, dried (magnesium sulfate) and concentrated. Purification by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give an oily solid. The solid was triturated with ethyl acetate to give N-Isoxazol-3-yl-4-methyl-3-[7-(2-morpholin-4-ylethoxy)-1-oxoisoquinolin-2(1H)-yl]benzamide as a white solid (70 mg); NMR Spectrum: (DMSOd6) 2.15 (s, 3H), 2.50 (m, 4H), 2.75 (m, 2H), 3.55 (m, 4H), 4.20 (m, 2H), 6.75 (m, 1H), 7.05 (m, 1H), 7.25 (m, 1H), 7.45 (m, 1H), 7.60 (m, 1H), 7.70 (m, 2H), 8.00 (m, 2H), 8.85 (s, 1H), 11.45 (s, 1H); Mass Spectrum: M+H+ 475.

reactant | 4-Methyl-3-[7-(2-morpholin-4-ylethoxy)-1-oxoisoquinolin-2(1H)-yl]benzoic acid | 708 mg | CC1=C(C=C(C(=O)O)C=C1)N1C(C2=CC(=CC=C2C=C1)OCCN1CCOCC1)=O | C23H24N2O5
reactant | Oxalyl chloride | 0.33 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Pyridine | 1.45 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-aminoisoxazole | 0.64 ml | NC1=NOC=C1 | C3H4N2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Isoxazol-3-yl-4-methyl-3-[7-(2-morpholin-4-ylethoxy)-1-oxoisoquinolin-2(1H)-yl]benzamide | 70 mg | O1N=C(C=C1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)OCCN1CCOCC1)=O)=O | C26H26N4O5
